US08304419B2
Step A: methyl 5-{[((2R)-4-{[(1,1-dimethylethyl)oxy]carbonyl}-2-morpholinyl)methyl]oxy}-1H-indole-2-carboxylate
Methyl 5-{[((2R)-4-{[(1,1-dimethylethyl)oxy]carbonyl}-2-morpholinyl)methyl]oxy}-1H-indole-2-carboxylate was prepared in a similar manner as described herein from 5-hydroxy-1H-indole-2-carboxylate (0.10 g, 0.5 mmol), triphenylphosphine (0.28 g, 1.0 mmol), diethyl azodicarboxylate (0.18 g, 1.0 mmol), 1,1-dimethylethyl (2R)-2-(hydroxymethyl)-4-morpholinecarboxylate (0.23 g, 1.0 mmol) and CH2Cl2 (5 mL). The crude material was purified by Reverse-Phase HPLC (water/acetonitrile with 0.1% TFA). The desired fractions were neutralized and extracted with EtOAc. The organic extracts were combined, dried over Na2SO4, filtered and evaporated to afford the title compound (0.15 g, 73%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.76 (s, 1H), 7.30 (d, 1H), 7.08 (d, 1H), 7.00 (d, 1H), 6.89 (dd, 1H), 3.94 (d, 2H), 3.81 (s, 3H), 3.78-3.92 (m, 2H), 3.59-3.73 (m, 2H), 3.35-3.46 (m, 1H), 2.76-2.97 (m, 2H), 1.36 (s, 9H)MS: m/z 391.2 (M+1).

reactant | 5-hydroxy-1H-indole-2-carboxylate | 0.5 mmol, 0.10 g | OC=1C=C2C=C(NC2=CC1)C(=O)[O-]
reactant | triphenylphosphine | 1.0 mmol, 0.28 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.0 mmol, 0.18 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 1,1-dimethylethyl (2R)-2-(hydroxymethyl)-4-morpholinecarboxylate | 1.0 mmol, 0.23 g | OC[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C10H19NO4
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | methyl 5-{[((2R)-4-{[(1,1-dimethylethyl)oxy]carbonyl}-2-morpholinyl)methyl]oxy}-1H-indole-2-carboxylate | 0.15 g, 73% | CC(C)(C)OC(=O)N1C[C@@H](OCC1)COC=1C=C2C=C(NC2=CC1)C(=O)OC | C20H26N2O6
